US06982268B2
To a solution of 2-[1-(3-chloro-5-methoxy-pyrazin-2-ylmethyl)-1H-imidazol-2-yl]-pyrimidine (30 mg, 0.094 mmol) in THF (5 mL) is added sodium methoxide (25% w/w in methanol, 0.5 mL). The mixture is refluxed for 1 hour. On cooling, saturated NH4Cl (0.7 mL) is added to quenched the reaction. Solvent is removed in vacuo and to the residue is added DCM (30 mL). The mixture is then dried and solvent removed to give 21 mg of 2-[1-(3,5-dimethoxy-pyrazin-2-ylmethyl)-1H-imidazol-2-yl]-pyrimidine as an oil. 1H NMR (CDCl3) 8.79 (d, 2H), 7.62 (s, 1H), 7.15–7.21 (m, 2H, 7.07 (s, 1H), 5.95 (s, 2H), 3.88 (s, 3H), 3.82 (s, 3H) I. 2-[1-(5-Methoxy-3-piperidin-1-yl-pyrazin-2-ylmethyl)-1H-imidazol-2-yl]-pyrimidine (Compound 10)

reactant | 2-[1-(3-chloro-5-methoxy-pyrazin-2-ylmethyl)-1H-imidazol-2-yl]-pyrimidine | 0.094 mmol, 30 mg | ClC=1C(=NC=C(N1)OC)CN1C(=NC=C1)C1=NC=CC=N1 | C13H11ClN6O
reactant | sodium methoxide | 0.5 mL | C[O-].[Na+]
reactant | NH4Cl | 0.7 mL | [NH4+].[Cl-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-[1-(3,5-dimethoxy-pyrazin-2-ylmethyl)-1H-imidazol-2-yl]-pyrimidine | 21 mg | COC=1C(=NC=C(N1)OC)CN1C(=NC=C1)C1=NC=CC=N1 | C14H14N6O2
